US07491716B2
4,7-Dibromofuro[3,2-c]pyridine
Combine 7-bromo-5H-furo[3,2-c]pyridin-4-one (16.16 g, 75.5 mmol), dichloroethane (160 mL), and phosphorus oxybromide (100 g, 348.8 mmol) and heat at reflux for about 2 hours. Cool to room temperature and pour the reaction mixture into ice water (1 L). Adjust the pH to 8 with SN NaOH, extract into dichloromethane, wash with brine, dry over magnesium sulfate, filter, and concentrate. Purification by flash chromatography, eluting with hexane:ethyl acetate gives the title compound as a white solid.

reactant | 7-bromo-5H-furo[3,2-c]pyridin-4-one | 75.5 mmol, 16.16 g | BrC=1C2=C(C(NC1)=O)C=CO2 | C7H4BrNO2
reactant | phosphorus oxybromide | 348.8 mmol, 100 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaOH | [OH-].[Na+]
solvent | dichloroethane | 160 mL | ClC(C)Cl | C2H4Cl2
product | 4,7-Dibromofuro[3,2-c]pyridine | BrC1=NC=C(C2=C1C=CO2)Br | C7H3Br2NO
